US05652363
3-Methoxypyridine-N-oxide
A solution of 3-chloropyridine-N-oxide (5.3g, 40 mmol) and 25% NaOMe in MeOH (25 ml) was refluxed for 24 hours under an argon atmosphere. The solvent was removed under reduced pressure and the residue was treated with CH2Cl2 and water. The organic phase was separated and dried (Na2SO4) and the solvent removed to give a residue which was triturated with hexane to yield 4 g (78%) of product as a crystalline solid, m.p. 99°-101° C. The structural assignment is supported by the proton NMR spectrum.

reactant | 3-chloropyridine-N-oxide | 40 mmol, 5.3g | ClC=1C=[N+](C=CC1)[O-] | C5H4ClNO
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 25 ml | CO | CH4O
product | 3-Methoxypyridine-N-oxide | 4 g, 78% | COC=1C=[N+](C=CC1)[O-] | C6H7NO2
